US04152441
A solution of 14.2 g (0.09 mol) of 1-benzylimidazole (A. M. Roe, J. Chem. Soc., 1963, 2195) in 60 ml. of tetrahydrofuran was added dropwise at -20° to -30° C. under a nitrogen atmosphere to 0.1 mol phenyl lithium (prepared from 1.52 g (0.22 gr. at.) of lithium and 15.7 g (0.19 mol) of bromobenzene) in 70 ml. of diethyl ether. The reaction mixture was stirred for one hour and then 22.5 g (0.09 mol) of 4-(trifluoromethyl)benzophenone in 35 ml. of tetrahydrofuran were added dropwise. The reaction mixture was stirred under the nitrogen atmosphere for two hours at -20° to -30° C. and for 15 hours at room temperature. The mixture was then poured into a mixture of ice and water. The aqueous phase was twice extracted with diethyl ether and the combined extracts were concentrated. The residue was taken up in diethyl ether and the undissolved solid matter (ketone starting material) was filtered off. The ether was distilled off and the residue was again taken up in a small amount of diethyl ether. The undissolved material, which now appeared to be the desired product, was filtered off. This procedure (evaporating the ether and taking up the residue in ether again) was repeated a few times and the solid materials filtered off were combined. The substance was crystallised from isopropyl alcohol with a small amount of water. 1-Benzyl-α-phenyl-α-(p-trifluoromethylphenyl)-imidazole-2-methanol was obtained.

reactant | 1-benzylimidazole | 0.09 mol, 14.2 g | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
reactant | phenyl lithium | 0.1 mol, 1.52 g | C1(=CC=CC=C1)[Li]
reactant | lithium | 0.22 gr | [Li] | Li
reactant | bromobenzene | 0.19 mol | BrC1=CC=CC=C1 | C6H5Br
reactant | 4-(trifluoromethyl)benzophenone | 0.09 mol, 22.5 g | FC(C1=CC=C(C(=O)C2=CC=CC=C2)C=C1)(F)F | C14H9F3O
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Benzyl-α-phenyl-α-(p-trifluoromethylphenyl)-imidazole-2-methanol | C(C1=CC=CC=C1)N1C(=NC=C1)C(O)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C24H19F3N2O
